US06673825B2
6-[(4-Bromophenyl)methoxy]-2-(3,5-dichlorophenyl)-dihydro-pyrazolo[1,2-α][1,2,4]triazole-1,3-dione
A mixture of 4-(3,5-dichlorophenyl)-[1,2,4]triazolidine-3,5-dione disodium salt (1.5 g, 5.17 mmol) (Preparation 4) and 1-Bromo-4-(2-bromo-1-chloromethyl-ethoxymethyl)-benzene (1.95 g, 5.69 mmol) (Preparation 1) in DMF (25 ml) was heated under reflux for 2 h 30 min. The solvent was removed under vacuum, and water was added to the resulting material. The precipitate was washed with diethyl ether and chromatographed over silica gel (CH2Cl2) to yield the above compound as a white solid (366 mg, mp=142° C.). 1H NMR (CDCl3):7.44 (2H, d, J=8.3 Hz), 7.3-7.4 (3H, m), 7.09 (2H, d, J=8.3 Hz), 4.43 (2H, s), 4.15-4.35 (3H, m), 3.49 (2H, dd, J1=12.2 Hz, J2=2.2 Hz).

reactant | 4-(3,5-dichlorophenyl)-[1,2,4]triazolidine-3,5-dione disodium salt | 5.17 mmol, 1.5 g | [Na].[Na].ClC=1C=C(C=C(C1)Cl)N1C(NNC1=O)=O
reactant | 1-Bromo-4-(2-bromo-1-chloromethyl-ethoxymethyl)-benzene | 5.69 mmol, 1.95 g | BrC1=CC=C(C=C1)COC(CBr)CCl | C10H11Br2ClO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 6-[(4-Bromophenyl)methoxy]-2-(3,5-dichlorophenyl)-dihydro-pyrazolo[1,2-α][1,2,4]triazole-1,3-dione | 366 mg | BrC1=CC=C(C=C1)COC1CN2N(C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C1 | C18H14BrCl2N3O3
